US07595405B2
3-(2,2-Difluoro-propionylamino)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester (0.630 g, 1.88 mmol) and triphenyl phosphine (0.989 g, 3.77 mmol) were added to 15 mL of CCl4. The reaction mixture was heated to 95° C. and stirred under nitrogen for 48 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give 0.612 g of 3-(1-chloro-2,2-difluoro-propylideneamino)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester, which was used directly in the next step without further purification.

reactant | 3-(2,2-Difluoro-propionylamino)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 1.88 mmol, 0.630 g | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)NC(C(C)(F)F)=O)=O | C17H16F2N2O3
reactant | triphenyl phosphine | 3.77 mmol, 0.989 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(1-chloro-2,2-difluoro-propylideneamino)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 0.612 g | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)N=C(C(C)(F)F)Cl)=O | C17H15ClF2N2O2
